US09232792B2
A mixture of 5.00 g of methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate, 4.00 g of sodium carbonate, 20 ml of water and 60 ml of methanol was stirred at 80° C. for 3 hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was recrystallized from water to obtain 5.10 g of sodium 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate (hereinafter referred to as “the present compound 5”).

reactant | methyl 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 5.00 g | FC(C1=CC2=C(SC(=C2)C(=O)OC)C=C1)(F)F | C11H7F3O2S
reactant | sodium carbonate | 4.00 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | sodium 5-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 5.10 g | FC(C1=CC2=C(SC(=C2)C(=O)[O-])C=C1)(F)F.[Na+] | InChI=1S/C10H5F3O2S.Na/c11-10(12,13)6-1-2-7-5(3-6)4-8(16-7)9(14)15;/h1-4H,(H,14,15);/q;+1/p-1
